US05273974
To 200 ml of 1,2-dichloroethane were added 9.65 g (44 mmol) of 3-(1-acetylpiperidin-4-yl)propionic acid chloride and 10.65 g (89 mmol), of 2,3-dihydrobenzofuran. To the mixture was added 12.82 g (96 mmol) of aluminum chloride in limited amounts, then the mixture was stirred for 3 hours at room temperature. The reaction mixture was poured into ice-water, which was subjected to extraction with methylene chloride. Organic layers were combined and washed with water and dried over anhydrous sodium sulfate, followed by distilling off the solvent. The residue was purified by means of a silica gel column chromatography (ethyl acetate) to give 10.47 g (78%) of 5-[3-(1-acetylpiperidin-4-yl)-1-oxopropyl]-2,3-dihydrobenzofuran. Recrystallization from methylene chloride--diethyl ether gave colorless needles, m.p. 93°-95° C.

reactant | 3-(1-acetylpiperidin-4-yl)propionic acid chloride | 44 mmol, 9.65 g | C(C)(=O)N1CCC(CC1)CCC(=O)Cl | C10H16ClNO2
reactant | 2,3-dihydrobenzofuran | O1CCC2=C1C=CC=C2 | C8H8O
reactant | aluminum chloride | 96 mmol, 12.82 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
product | 5-[3-(1-acetylpiperidin-4-yl)-1-oxopropyl]-2,3-dihydrobenzofuran | 10.47 g, 78% | C(C)(=O)N1CCC(CC1)CCC(=O)C=1C=CC2=C(CCO2)C1 | C18H23NO3
